US20010044417A1
Synthesis of Guanidino-L-cystine
To a solution of cystine (1 gm, 4.2 mmol) in ammonium hydroxide (10 mL) in a screw-capped vial was added O-methylisourea hydrogen sulfate (1.8 gm, 10 mmol). The vial was sealed and heated to 60° C. for 16 h. The solution was then cooled and the ammonium hydroxide was removed by rotary evaporation. The solid was then dissolved in water (20 mL), filtered through a cotton plug. The product was then isolated by ion exchange chromatography using Bio-Rex 70 resin and eluting with hydrochloric acid (100 mM).

reactant | cystine | 4.2 mmol, 1 gm | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | O-methylisourea hydrogen sulfate | 10 mmol, 1.8 gm | S(=O)(=O)(O)O.COC(N)=N
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
product | Guanidino-L-cystine | N(C(=N)N)C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C7H15N5O4S2
